US04404137
Ethyl 3-(4-fluoro-2-nitroanilino)-1-methylpyrazole-4-carboxylate
A solution of ethyl 3-amino-1-methylpyrazole-4-carboxylate (Helv. Chim. Acta (1959) 42 349) (17 g) in dry tetrahydrofuran (250 ml) was stirred under nitrogen at -10° C. n-Butyl lithium (75 ml of 1.84 molar solution in hexane) was added at -10° to -15° C. The mixture was stirred at -15° C. for 10 minutes and a solution of 2,5-difluoronitrobenzene (16 g) in dry tetrahydrofuran (50 ml) was added at -15° to -10° C. The solution was warmed at room temperature and stirred for 1 hour. The ink-blue solution was poured into 500 ml of a 1:1 mixture of hydrochloric acid (2 M) and ice-brine, extracted with chloroform (3×250 ml), washed with water (2×250 ml), dried with magnesium sulphate and evaporated to dryness. The brick-red residue was crystallised from ethanol (800 ml) to give the title compound having a m.p. of 162° C.

reactant | ethyl 3-amino-1-methylpyrazole-4-carboxylate | 17 g | NC1=NN(C=C1C(=O)OCC)C | C7H11N3O2
reactant | n-Butyl lithium | 1.84 molar, 75 ml | C(CCC)[Li]
reactant | 2,5-difluoronitrobenzene | 16 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 3-(4-fluoro-2-nitroanilino)-1-methylpyrazole-4-carboxylate | FC1=CC(=C(NC2=NN(C=C2C(=O)OCC)C)C=C1)[N+](=O)[O-] | C13H13FN4O4
